US06162927
N-butyl-N-(3-pyridyl)-amine
To a solution of 941 mg (10 mmol) of 3-aminopyridine and 0.9 mL of butyraldehyde in 30 mL of CH3OH was added 10 mL of glacial acetic acid. The mixture was stirred at room temperature for 1 hour, then the reaction was cooled with an ice bath, and 650 mg (10.3 mmol) of sodium cyanoborohydride was added. The ice bath was removed, and the reaction was stirred for 4.5 hours at room temperature. The mixture was poured into 300 mL of 0.67M NaOH(aq.), and extracted with ethyl acetate (3×50 mL). The combined organic layers were back extracted with brine (1×50 mL), dried over MgSO4, filtered, and concentrated to an oil. The product was isolated via silica gel chromatography, eluting with 3:1 ethyl acetate: hexanes to give 1.18 g (79%) of a colorless solid.

reactant | 3-aminopyridine | 10 mmol, 941 mg | NC=1C=NC=CC1 | C5H6N2
reactant | butyraldehyde | 0.9 mL | C(CCC)=O | C4H8O
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 10.3 mmol, 650 mg | C(#N)[BH3-].[Na+]
solvent | CH3OH | 30 mL | CO | CH4O
product | N-butyl-N-(3-pyridyl)-amine | 1.18 g, 79% | C(CCC)NC=1C=NC=CC1 | C9H14N2
